US06670362B2
2-(Cyclopentyl)ethylsulfonyl chloride
Dimethylformamide (5 drops) was added over 1 minute to a stirred solution of 2-(cyclopentyl)ethylsulfonic acid sodium salt (1 5.5 g, 87.5 mmol) in thionyl chloride (60 ml) under a nitrogen atmosphere. The reaction mixture was stirred under reflux for 5 hours and was then cooled to room temperature and concentrated under vacuum. The residue was suspended in toluene (100 ml) and then concentrated under vacuum. The residue was dissolved in a mixture of ethyl acetate (150 ml) and water (150 ml) and the organic phase was separated. The aqueous phase was extracted with ethyl acetate (100 ml) and the combined organic extracts were washed with brine (3×100 ml), dried (magnesium sulfate) and evaporated to give the title compound as a brown oil (14.1 g), Rf 0.5 (pentane/ethyl acetate 95:5).

reactant | 2-(cyclopentyl)ethylsulfonic acid sodium salt | 87.5 mmol, 5.5 g | [Na+].C1(CCCC1)CCS(=O)(=O)[O-]
reactant | thionyl chloride | 60 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | Dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
product | 2-(Cyclopentyl)ethylsulfonyl chloride | 14.1 g | C1(CCCC1)CCS(=O)(=O)Cl | C7H13ClO2S
